US05811459
tert-Butyl 4-[2-(pyrimidin-4(3 H)-on-5-yl)ethyl]benzoate (0.6 g,) was dissolved in N,N-dimethylaniline (5 ml) and treated with phosphorous-oxy-chloride (1.53 g 10 mmol). The reaction was heated to 100° C. for 2.5 hours and then evaporated at reduced pressure. The residue was diluted with EtOAc, washed (1N HCl 2×, H2O, saturated brine), dried over MgSO4 and evaporated to give tert-butyl 4-[2-(4-chloropyrimidin-5-yl)ethyl]benzoate as a brown oil (0.5 g, 64%) which was used without further purification.

reactant | tert-Butyl 4-[2-(pyrimidin-4(3 H)-on-5-yl)ethyl]benzoate | 0.6 g | N1=CNC(C(=C1)CCC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C17H20N2O3
reactant | phosphorous-oxy-chloride | 10 mmol, 1.53 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | N,N-dimethylaniline | 5 ml | CN(C1=CC=CC=C1)C | C8H11N
product | tert-butyl 4-[2-(4-chloropyrimidin-5-yl)ethyl]benzoate | 0.5 g, 64% | ClC1=NC=NC=C1CCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C17H19ClN2O2
